US05578634
1-[(3-Benzyloxyphenyl)methyl]-5-bromo-2-methyl-1-1H-indole-3-acetic acid ethyl ester. Using the procedure described in Example 1, Part F, 592 mg (2 mmol) of 5-bromo-2-methyl-1H-indole-3-acetic acid ethyl ester (Example 51, Part A) was reacted with 80 mg (2 mmol) of 60% NaH/mineral oil and 465 mg (2 mmol) of 3-benzyloxybenzylchloride and after workup of the reaction mixture and chromatograpy on silica(eluted with 33% EtOAc/hexane) there was obtained 592 mg (60%) of 1-[(3-benzyloxyphenyl)methyl]-5-bromo-2-methyl-1H-indole-3-acetic acid ethyl ester as an oil.

reactant | 5-bromo-2-methyl-1H-indole-3-acetic acid ethyl ester | 2 mmol, 592 mg | C(C)OC(CC1=C(NC2=CC=C(C=C12)Br)C)=O | C13H14BrNO2
reactant | NaH | 2 mmol, 80 mg | [H-].[Na+]
reactant | 3-benzyloxybenzylchloride | 2 mmol, 465 mg | C(C1=CC=CC=C1)OC=1C=C(CCl)C=CC1 | C14H13ClO
product | 1-[(3-benzyloxyphenyl)methyl]-5-bromo-2-methyl-1H-indole-3-acetic acid ethyl ester | 592 mg, 60% | C(C)OC(CC1=C(N(C2=CC=C(C=C12)Br)CC1=CC(=CC=C1)OCC1=CC=CC=C1)C)=O | C27H26BrNO3
